US04122186
(2) p-Chlorobenzylmercapto-acetohydroxamic acid
A solution of 0.15 mol of methyl p-chlorobenzylmercapto-acetate in 50 ml of methanol is mixed with a solution of 0.225 mol of hydroxylamine (base) and 0.15 mol of CH3ONa in 150 ml of methanol.

reactant | methyl p-chlorobenzylmercapto-acetate | 0.15 mol | ClC1=CC=C(CSCC(=O)OC)C=C1 | C10H11ClO2S
reactant | hydroxylamine | 0.225 mol | NO | H3NO
reactant | CH3ONa | 0.15 mol | CO[Na]
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 150 ml | CO | CH4O
product | p-Chlorobenzylmercapto-acetohydroxamic acid | ClC1=CC=C(CSCC(=O)NO)C=C1 | C9H10ClNO2S
